US07943619B2
d) [3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol
To a solution of 3-(3-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester (6.18 g, 25 mmol) in THF (320 mL) was added portionwise lithiumaluminiumhydride (528 mg, 14 mmol) at 0° C. and the reaction mixture was stirred at room temperature for 3 h. The mixture was then cooled to 0° C. and water (518 ␣L) added followed by sodium hydroxide (15% solution, 518 μL) and then again water (1.5 mL) and the mixture then stirred overnight at room temperature. The precipitate was then filtered off and washed with THF. The combined washings and filtrate were then evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (3.9 g, 75%) which was obtained as a yellow solid. MS: m/e=208.3 [M+H]+.

reactant | 3-(3-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 25 mmol, 6.18 g | C(C)OC(=O)C=1C(=NOC1C)C1=CC(=CC=C1)F | C13H12FNO3
reactant | lithiumaluminiumhydride | 14 mmol, 528 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | 518 μL | [OH-].[Na+]
reactant | water | 1.5 mL | O | H2O
solvent | THF | 320 mL | C1CCOC1 | C4H8O
product | [3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol | 3.9 g, 75% | FC=1C=C(C=CC1)C1=NOC(=C1CO)C | C11H10FNO2
